US06248739B1
N-(4-Chlorobenzyl)-6-(4-morpholinylmethyl)-4-oxo-1-tetrahydro-2H-pyran-4-yl-1,4-dihydro-3-quinolinecarboxamide (formula W-5; Z=O)
A flask containing ethyl 6-(4-morpholinylmethyl)-4-oxo-1-tetrahydro-2H-pyran-4-yl-1,4-dihydro-3-quinolinecarboxylate (0.21 g) is treated with 4-chlorobenzylamine (2.0 mL). The reaction is tightly capped and heated to 190° C. for 1 hour. The reaction is cooled to room temperature, adsorbed onto silica and chromatographed on silica eluting with 2% to 6% methanol in dichloromethane and then by recrystallization from ethyl acetate to afford 0.14 g of the title compound.

reactant | ethyl 6-(4-morpholinylmethyl)-4-oxo-1-tetrahydro-2H-pyran-4-yl-1,4-dihydro-3-quinolinecarboxylate | 0.21 g | N1(CCOCC1)CC=1C=C2C(C(=CN(C2=CC1)C1CCOCC1)C(=O)OCC)=O | C22H28N2O5
reactant | 4-chlorobenzylamine | 2.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-6-(4-morpholinylmethyl)-4-oxo-1-tetrahydro-2H-pyran-4-yl-1,4-dihydro-3-quinolinecarboxamide | 0.14 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)C2CCOCC2)C=C1 | C27H30ClN3O4
